US06660744B1
Ethyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate was treated with morpholine using the representative procedure for amide formation. Purification by preparative HPLC (25 to 100% CH3CN in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersi1HS C18, 250×21 mm column, Rt 9.3-9.8 min) afforded N1-{4-[4-amino-1-(2-morpholino-2-oxoethyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-fluorophenyl}-2,3-dichloro-1-benzenesulfonamide as a white solid (0.005 g, 0.009 mmol): RP-HP (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersi1HS C18, 250×4.6 mm column) Rt 8.22 min. 1H NMR (DMSO-d6, 400 MHz) δ 10.82 (s, 1H), 8.21 (s, 1H), 7.96 (d, 1H), 7.94 (m, 1H), 7.53 (t, 1H), 7.39 (m, 3H), 6.97 (br, 2H), 5.32 (s, 2H), 3.5 (m, 8H); MS: MH+ 580.

reactant | Ethyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)CC(=O)OCC | C21H17Cl2FN6O4S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N1-{4-[4-amino-1-(2-morpholino-2-oxoethyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-fluorophenyl}-2,3-dichloro-1-benzenesulfonamide | 0.009 mmol, 0.005 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)CC(=O)N2CCOCC2 | C23H20Cl2FN7O4S
